US07173025B1
Acetic formic anhydride (1.5 g; pre-formed by heating acetic anhydride and 98% formic acid at 60° C. for 2 hours) was cooled to 5° C. and 4-[1-(4-pyridyl)piperidin-4-yloxy]aniline (1.0 g) was added. The mixture was stirred at ambient temperature for 16 hours and then evaporated. The residue was dissolved in water (50 ml) and the mixture was basified to pH10 by the addition of a 2M aqueous sodium hydroxide solution. The resultant mixture was extracted with methylene chloride, washed with water and with brine, dried (MgSO4) and evaporated to give N-{4-[1-(4-pyridyl)piperidin-4-yloxy]phenyl}formamide as a foam (0.72 g);

reactant | Acetic formic anhydride | 1.5 g | C(=O)OC(C)=O | C3H4O3
reactant | 4-[1-(4-pyridyl)piperidin-4-yloxy]aniline | 1.0 g | N1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(N)C=C1 | C16H19N3O
product | N-{4-[1-(4-pyridyl)piperidin-4-yloxy]phenyl}formamide | 0.72 g | N1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)NC=O | C17H19N3O2
